** sch_path: /home/flavia/sky130_ef_ip__samplehold/xschem/follower_amp.sch
*.subckt follower_amp vdd out ena vss in vsub
*.PININFO in:I vdd:I vss:I out:O ena:I vsub:I
XM4 pdrv1 net1 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM5 vdd net1 net1 vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM10 vss nbias nbias vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=4 m=1
XM20 out pdrv1 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=280 nf=280 m=1
XM22 out ndrv vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=4 m=1
XM24 pbias nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM25 vdd pbias pbias vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM26 vcomp pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM27 net2 out vcomp vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM28 vcomp in ndrv vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM29 ndrv net2 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM30 vss net2 net2 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM1 net1 out vcomn1 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM2 vcomn1 in pdrv1 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM3 pdrv2 net3 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM6 vdd net3 net3 vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM7 vcomn2 nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM12 vdd pdrv2 out vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=20 m=1
*XXD1 vss in sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=4e6
XM13 net4 ena nbias vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
*XXD2 vss ena sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=4e6
XM11 pdrv2 in vcomn2 vss sky130_fd_pr__nfet_05v0_nvt L=0.9 W=1 nf=1 m=1
XM9 net3 out vcomn2 vss sky130_fd_pr__nfet_05v0_nvt L=0.9 W=1 nf=1 m=1
XM8 vcomn1 nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XR2 net4 vdd vss sky130_fd_pr__res_xhigh_po_0p35 L=35 mult=1 m=1
*.ends
.end
